US08476385B2
A 5-L round-bottom flask equipped with a mechanical stirrer and nitrogen bubbler was charged with 1 L of glyme, sodium borohydride (76 grams, 2.0 moles) and heated to 80° C. CF3CFH—O—(CF2)5COOCH3 (713 grams, 1.67 mole), prepared as described in Part A, was added to the stirred slurry over a period of one hour. A mixture of concentrated sulfuric acid (198 grams) and water (1.0 L) was added to the reaction mixture. The lower phase was separated, and the solvent was removed by distillation. Further distillation provided 506 grams of CF3CFH—O—(CF2)5CH2OH (boiling point 173° C.), the structure of which was confirmed by Fourier Transform Infrared Spectroscopy (FTIR) and 1H and 19F Nuclear Magnetic Resonance (NMR) Spectroscopy.

reactant | glyme | 1 L | C(OC)COC | C4H10O2
reactant | sodium borohydride | 2.0 moles, 76 grams | [BH4-].[Na+]
reactant | CF3CFH—O—(CF2)5COOCH3 | 1.67 mole, 713 grams | C(F)(F)(F)C(F)OC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(=O)OC | C9H4F14O3
reactant | sulfuric acid | 198 grams | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.0 L | O | H2O
product | CF3CFH—O—(CF2)5CH2OH | 506 grams | C(F)(F)(F)C(F)OC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)CO | C8H4F14O2
